US04560692
(b) 1-[6-Fluoro-2-(4-methylphenyl)-4-quinolinyl]-4-piperidinecarboxamide
The named compound was made in a manner analogous to that of Example 4(c) using 4-Chloro-6-fluoro-2-(4-methylphenyl)quinoline and isonipecotamide as starting materials. It was obtained as white needles, mp 246°-249° dec on recrystallization from pyridine.

reactant | 4-Chloro-6-fluoro-2-(4-methylphenyl)quinoline | ClC1=CC(=NC2=CC=C(C=C12)F)C1=CC=C(C=C1)C | C16H11ClFN
reactant | isonipecotamide | N1CCC(C(=O)N)CC1 | C6H12N2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-[6-Fluoro-2-(4-methylphenyl)-4-quinolinyl]-4-piperidinecarboxamide | FC=1C=C2C(=CC(=NC2=CC1)C1=CC=C(C=C1)C)N1CCC(CC1)C(=O)N | C22H22FN3O
